US06693123B2
A slurry in methanol of [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine methyl ester (143 mg, 0.32 mmol), prepared as in Example 234, hydroxylamine hydrochloride (26 mg, 0.37 mmol) and potassium carbonate (106 mg, 0.77 mmol) was stirred at ambient temperature for 4 hours, then a solution of potassium hydroxide in methanol (0.33 mL) was added and stirring was continued overnight at ambient temperature. The reaction mixture was filtered and the filtrate was diluted with water and taken to pH 4. The aqueous phase was extracted with 3:1 chloroform-isopropanol. The organic extract was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by prep HPLC gave [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine hydroxamic acid (92 mg). 1H NMR (300 MHz, DMSO-d6) δ 10.58 (br s, 1H), 8.58 (d, 1H), 8.40 (d, 1H), 8.33 (d, 1H), 7.80 (dd, 1H), 7.60 (dd, 1H), 7.50 (m, 3H), 7.36 (m, 5H), 5.35 (s, 2H), 4.20 (m, 1H), 2.12 (m, 2H), 1.98 (s, 3H), 1.70 (m, 2H). MS (APCI) m/e 452 (M+H)+.

reactant | [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine methyl ester | 0.32 mmol, 143 mg | COC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H26N2O4S
reactant | hydroxylamine hydrochloride | 0.37 mmol, 26 mg | Cl.NO
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | methanol | 0.33 mL | CO | CH4O
product | [4-(3-pyridyloxymethyl)-2-phenylbenzoyl]methionine hydroxamic acid | 92 mg | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)NO)C=C1)C1=CC=CC=C1 | C24H25N3O4S
